US07872135B2
Stage 1 (Preparation of 3-oxo-4-aza-5α-androstane-17β-carboxylic acid)
A suspension of 100 g (0.26 mol) of dihydrofinasteride, 480 g of 20% HCl solution (2.63 mol) and 120 g of methanol are heated to reflux and boiled intensively for 8-12 hours. The reactant goes into solution on heating; after 8 hours, there is a suspension which can be readily filtered. The filtercake is washed three times intensively with 100 g each time of water, suction-dried for approx. 15 minutes and subsequently dried overnight. Yield: 60 g.

reactant | dihydrofinasteride | 0.26 mol, 100 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2C(=O)NC(C)(C)C)CC[C@@H]4[C@@]3(CCC(=O)N4)C | C23H38N2O2
reactant | HCl | 2.63 mol, 480 g | Cl | ClH
reactant | methanol | 120 g | CO | CH4O
product | 3-oxo-4-aza-5α-androstane-17β-carboxylic acid | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2C(=O)O)CC[C@@H]4[C@@]3(CCC(=O)N4)C | C19H29NO3
